US06013764
A solution of H-Lys(Z)-OBzl·HCl (20.35 g, 50 mmol) in DMF (50.0 g) was treated with Et3N (5.26 g, 51 mmol) at 25 to 30° C. Boc-Leu-Leu-OH (17.57 g, 51 mmol) and HOBt (1.08 g, 8 mmol) were added followed by an additional portion of DMF (7.0 g). A solution of DCC (11.35 g, 55 mmol) in DMF (25.0 g) was added dropwise over a period of 30 min at 20° C. The reaction mixture was stirred for 4 h and the temperature was allowed to rise (to ca. 34° C.). Acetic acid (0.2 g) was added, the resulting suspension was filtered and the filter cake was rinsed with DMF (15.0 g). Acetone (126.0 g) was added to the filtrate, followed by two portions of H2O (66.5 g, 89.5 g, 30 min apart). The resulting precipitate was filtered and the filter cake was washed with acetone (53.0 g) and H2O (212.0 g). The crude solid was triturated with a mixture of acetone (100 g) and H2O (400 g), filtered, washed with H2O and dried in vacuo at 40° C. to give Boc-Leu-Leu-Lys(Z)-OBzl (32.6 g, 93.4%).

reactant | H-Lys(Z)-OBzl·HCl | 50 mmol, 20.35 g | N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1.Cl
reactant | Et3N | 51 mmol, 5.26 g | CCN(CC)CC | C6H15N
reactant | Boc-Leu-Leu-OH | 51 mmol, 17.57 g | N([C@@H](CC(C)C)C(=O)N[C@@H](CC(C)C)C(=O)O)C(=O)OC(C)(C)C | C17H32N2O5
reactant | HOBt | 8 mmol, 1.08 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DCC | 55 mmol, 11.35 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | DMF | 50.0 g | CN(C)C=O | C3H7NO
solvent | DMF | 25.0 g | CN(C)C=O | C3H7NO
catalyst | Acetic acid | 0.2 g | C(C)(=O)O | C2H4O2
solvent | DMF | 7.0 g | CN(C)C=O | C3H7NO
product | Boc-Leu-Leu-Lys(Z)-OBzl | 32.6 g, 93.4% | N([C@@H](CC(C)C)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C38H56N4O8
